### PR TITLE
feat(CanonicalEnsemble):add differentialEntropy and properties of partitionFunction and entropy

### PR DESCRIPTION
**Pull request by or4nge19**
Proves positivity/normalisation properties: partitionFunction_pos, probability_nonneg, sum_probability_eq_one, and entropy_nonneg. Nonempty ι is required where sums must be nonzero.
Add differentialEntropy

### CODE REVIEW

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Finite.lean [hunk 1]
```diff
@@ -1,7 +1,7 @@
 /-
 Copyright (c) 2025 Joseph Tooby-Smith. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: Joseph Tooby-Smith
+Authors: Joseph Tooby-Smith, Matteo Cipollina
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Finite.lean]: Name order to alphabetical.

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Finite.lean [hunk 2]
```diff
@@ -144,4 +144,68 @@ lemma entropy_of_fintype [IsFinite 𝓒] (T : Temperature) :
   simp [mul_comm]
   exact Integrable.of_finite
 
+/-- The partition function of a finite canonical ensemble is strictly positive.
+We require `[Nonempty ι]`; otherwise for an empty type the sum is zero. -/
+lemma partitionFunction_pos [IsFinite 𝓒] [Nonempty ι] (T : Temperature) :
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Finite.lean]: Do you think you could prove these results in the general case, i.e. in the CanonicalEnsemble.Basic file?
If not I think we should put the lemmas there with a `sorry` proof and a note that they have being proved in the finite case.

Comment (or4nge19) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Finite.lean]: thanks! have generalized where I could, see the comments in the new commits

File: PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean [hunk 3]
```diff
@@ -569,4 +569,81 @@ lemma meanEnergy_nsmul (n : ℕ) (T : Temperature)
...
+        = - kB * (∫ i, Real.log (𝓒.probability T i) ∂𝓒.μProd T) := rfl
+  have hkB : 0 ≤ kB := kB_nonneg
+  have : 0 ≤ - kB * (∫ i, Real.log (𝓒.probability T i) ∂𝓒.μProd T) := by
+    have hIle0 : (∫ i, Real.log (𝓒.probability T i) ∂𝓒.μProd T) ≤ 0 := by
+      simpa [integral_const] using hIntLe
+    exact (mul_nonneg_of_nonpos_of_nonpos (neg_nonpos.mpr hkB) hIle0)
+  simpa [hent]
+
+/-!
+NOTE: Without the hypothesis `∀ i, probability ≤ 1` the (differential) entropy
```
Comment (jstoobysmith) [inline PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: I'm confused by this - do you have an example of where the probability could be greater than one? I.e. what conditions does on the measure allows this?

Comment (jstoobysmith) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: Ah, never mind! I understand, probability here is really the probability density function, there is no requirement on that being less then 1. Maybe we should rename it as such?

Comment (or4nge19) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: I believe the pointwise bound probability ≤ 1 is necessary in the general measure‑theoretic setup because probability is a density wrt an arbitrary measure, and densities can exceed 1 (e.g. uniform on a set of measure < 1). This bound is automatic for finite/counting measures, which is why the finite specialization gives unconditional nonnegativity. Perhaps we can change the statement to talk about “probability density” to make the semantics explicit

Comment (jstoobysmith) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: Yep - agreed :)

Comment (or4nge19) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: for continuous systems I think one normally refers to differential entropy which is not absolute but it depends on the choice of units or the underlying measure μ. It can be negative and does not have the same direct interpretation as an absolute measure of disorder. Here the physical quantities are the differences in entropy as they are independent of these choice

Comment (jstoobysmith) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: Ok, good, should we rename `entropy` in the continuous case as `differentialEntropy` and then in the finite case define `entropy` itself, through `differentialEntropy`. Or we can just get rid of entropy in the continous case completely for now.

Comment (jstoobysmith) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: Also in the `Basic.lean` file would you mind putting the lemmas in relevant sections of the file? So e.g. `partitionFunction_pos` should appear near the definition of `partitionFunction` and amongst the API which follows it.

Comment (or4nge19) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: let me think about it

Comment (jstoobysmith) [reply PhysLean/StatisticalMechanics/CanonicalEnsemble/Basic.lean:641]: Ok, sounds good to me.

**Comment by jstoobysmith** [comment]
All looks good to me now! Many thanks! Once the linters pass I will approve for merge

**Comment by or4nge19** [comment]
> All looks good to me now! Many thanks! Once the linters pass I will approve for merge

it looks much better now generalized as you suggested :)

**Review by jstoobysmith — APPROVED** [review]
Approved - feel free to merge when ready :).
